US06015818
To a solution of tert-butyldiphenylsilyl chloride (30.7 g) in N,N-dimethylformamide (90 ml) were added 2,6-dimethyl-3-nitrobenzyl alcohol (18.4 g) and imidazole (8.99 g) under ice-cooling, and the mixture was stirred for 15 minutes at the same temperature and for 3 hours at ambient temperature. Water was added thereto, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo to give 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethyl-3-nitrobenzene (46.67 g) as pale yellow oil.

reactant | tert-butyldiphenylsilyl chloride | 30.7 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | 2,6-dimethyl-3-nitrobenzyl alcohol | 18.4 g | CC1=C(CO)C(=CC=C1[N+](=O)[O-])C | C9H11NO3
reactant | imidazole | 8.99 g | N1C=NC=C1 | C3H4N2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dimethyl-3-nitrobenzene | 46.67 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1C)[N+](=O)[O-])C | C25H29NO3Si
